US07705025B2
(2(S)-Pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-(4-thiophen-2-yl-phenyl)-methanone
The title compound is prepared in a manner substantially analogous to General Procedure D in 10 mL 10% DMF/dichloromethane using 4-(thiophen-2-yl)-benzoic acid (CAS 29886-62-2) (182 mg, 0.89 mmol), EDC-HCl (254 mg, 1.33 mmol), HOBt (180 mg, 1.33 mmol), DIEA (0.39 mL, 2.22 mmol) and (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine (116 mg, 10.0 mmol) to give the title compound (90 mg, 35% yield). MS (ES+) 341.2 (M+H)+

reactant | 4-(thiophen-2-yl)-benzoic acid | 0.89 mmol, 182 mg | S1C(=CC=C1)C1=CC=C(C(=O)O)C=C1 | C11H8O2S
reactant | EDC-HCl | 1.33 mmol, 254 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 1.33 mmol, 180 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 2.22 mmol, 0.39 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine | 10.0 mmol, 116 mg | N1[C@@H](CCC1)CN1CCCC1 | C9H18N2
solvent | DMF dichloromethane | 10 mL | CN(C)C=O.ClCCl
product | (2(S)-Pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-(4-thiophen-2-yl-phenyl)-methanone | 90 mg, 35% yield | N1(CCCC1)C[C@H]1N(CCC1)C(=O)C1=CC=C(C=C1)C=1SC=CC1 | C20H24N2OS
